US05770594
(4-Chloro-phenyl)-(neopentyl)-amine
Pivalaldehyde (20.4 g, 236 mmol, 25.6 mL) was added to a solution of 4-chloroaniline (30.2 g, 236 mmol) in concentrated acetic acid (475 mL) at ambient temperature. After 1.5 hour, the reaction mixture was cooled to 0° C. and sodium borohydride (11.7 g, 307 mmol) was added portionwise over 15 minutes After stirring for 1 hour, the resulting mixture was diluted with water and extracted with ethyl acetate (3×). The combined organics were washed successively with water (3×), aqueous 2N sodium hydroxide (2×), saturated aqueous sodium bicarbonate, and saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure to give 47.2 g (99%) of the title compound as an off-white solid which was taken on crude to the next step.

reactant | Pivalaldehyde | 236 mmol, 25.6 mL, 20.4 g | C(C(C)(C)C)=O | C5H10O
reactant | 4-chloroaniline | 236 mmol, 30.2 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | sodium borohydride | 307 mmol, 11.7 g | [BH4-].[Na+]
solvent | acetic acid | 475 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | (4-Chloro-phenyl)-(neopentyl)-amine | 47.2 g, 99% | ClC1=CC=C(C=C1)NCC(C)(C)C | C11H16ClN
